US07273868B2
To a solution of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-(4-hydroxypiperidin-1-yl)pyrimidine (prepared in the above (3)) 56 mg in N,N-dimethylacetamide 0.5 ml are added a solution of 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine 31 mg in N,N-dimethylacetamide 0.5 ml and triethylamine 27 μl at room temperature, and the mixture is stirred at 80-90° C. for 5 hours. The reaction mixture is diluted with an aqueous citric acid solution, made basic with an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-(4-hydroxypiperidin-1-yl)pyrimidine as a pale yellow powder, 66 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-(4-hydroxypiperidin-1-yl)pyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)Cl)N2CCC(CC2)O)C=CC1OC | C19H22Cl2N4O4
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | 31 mg | N=1C=CN2C1CNCC2 | C6H9N3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 0.5 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 0.5 ml | CN(C(C)=O)C | C4H9NO
solvent | triethylamine | 27 μl | C(C)N(CC)CC | C6H15N
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-(4-hydroxypiperidin-1-yl)pyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)N3CCC(CC3)O)C=CC1OC | C25H30ClN7O4
